US06982274B2
3-(3-Fluorophenyl)-7-methyl-1H-indazole-5-carbonitrile
To a solution of 1.5 g of 5-bromo-3-(3-fluorophenyl)-7-methyl-1-trityl-1H-indazole in 15 ml dimethylformamide were added 0.64 g of zinc cyanide and 0.32 g of tetrakis(triphenylphosphine)palladium(0) at room temperature, and the mixture was stirred at 100° C. for one day. At the same temperature, 0.32 g of tetrakis(triphenylphosphine)palladium(0) was added and the mixture was stirred at 130° C. for one day. The reaction mixture was diluted with ethyl acetate, and the organic layer was sequentially washed with saturated aqueous ammonium chloride solution and brine, dried over anhydrous magnesium sulfate, and the solvent was evaporated. The crude product was purified and separated by silica gel column chromatography. (ethyl acetate:n-hexane=1:10 to 1:1) and the resulting crystals were washed with diethyl ether, to give 431 mg of the title compound as colorless crystals.

reactant | 5-bromo-3-(3-fluorophenyl)-7-methyl-1-trityl-1H-indazole | 1.5 g | BrC=1C=C2C(=NN(C2=C(C1)C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC(=CC=C1)F | C33H24BrFN2
reactant | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | zinc cyanide | 0.64 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.32 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.32 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(3-Fluorophenyl)-7-methyl-1H-indazole-5-carbonitrile | 431 mg | FC=1C=C(C=CC1)C1=NNC2=C(C=C(C=C12)C#N)C | C15H10FN3
